US09388189B2
(S)-2-(1-((5-(3-Fluoro-5-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (115 mg, 0.24 mmol) was treated with (3-fluoro-5-hydroxyphenyl)boronic acid (57 mg, 0.37 mmol), sodium carbonate (2M, 548 μl, 1.10 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (30 mg, 0.04 mmol) according to the method described in Example 3 to give 60 mg (54% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-((5-Iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.24 mmol, 115 mg | IC=1C(=NC=NC1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C19H17IN6O
reactant | (3-fluoro-5-hydroxyphenyl)boronic acid | 0.37 mmol, 57 mg | FC=1C=C(C=C(C1)O)B(O)O | C6H6BFO3
reactant | sodium carbonate | 1.10 mmol, 2M, 548 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((5-(3-Fluoro-5-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 60 mg, 54% yield | FC=1C=C(C=C(C1)O)C=1C(=NC=NC1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C25H21FN6O2
